US05962458
Diethyl azodicarboxylate (220 μl, 1.4 mmol) was added dropwise to a solution of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (150 mg, 0.47 mmol), (prepared as described for the starting material in Example 24), 2-(1,2,4-triazol-4-yl)ethanol (64 mg, 0.56 mmol) and triphenylphosphine (369 mg, 1.4 mmol) in methylene chloride (5 ml) and the mixture stirred for 30 minutes at ambient temperature. Further 2-(1,2,4-triazol-4-yl)ethanol (16 mg, 0.14 mmol), triphenylphosphine (37 mg, 0.14 mmol) and diethyl azodicarboxylate (22 μl, 0.14 mmol) was added and the mixture stirred for 1 hour at ambient temperature. The precipitated solid was collected by filtration, washed with methylene chloride and methanol and dried under vacuum. The solid was dissolved in methylene chloride/methanol and ethereal hydrogen chloride (1.5 ml of a 2.2M solution) was added. The volatiles were removed by evaporation, the solid residue was suspended in ether, collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(1,2,4-triazol-4-yl)ethoxy)quinazoline hydrochloride (93 mg, 40%).

reactant | Diethyl azodicarboxylate | 1.4 mmol, 220 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.47 mmol, 150 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 2-(1,2,4-triazol-4-yl)ethanol | 0.56 mmol, 64 mg | N=1N=CN(C1)CCO | C4H7N3O
reactant | triphenylphosphine | 1.4 mmol, 369 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 2-(1,2,4-triazol-4-yl)ethanol | 0.14 mmol, 16 mg | N=1N=CN(C1)CCO | C4H7N3O
reactant | triphenylphosphine | 0.14 mmol, 37 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.14 mmol, 22 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-(2-(1,2,4-triazol-4-yl)ethoxy)quinazoline hydrochloride | 93 mg, 40% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2C=NN=C2)C=C1)F | InChI=1S/C19H16ClFN6O2.ClH/c1-28-17-7-13-16(8-18(17)29-5-4-27-10-24-25-11-27)22-9-23-19(13)26-15-3-2-12(20)6-14(15)21;/h2-3,6-11H,4-5H2,1H3,(H,22,23,26);1H
